US05962458
A solution of sodium nitrite (1.63 g, 23 mmol) in water (19ml) and ice (48 g) was added dropwsie to a solution of 2-fluoro-5-methoxycarbonyloxy-4-methylaniline (3.93 g, 20 mmol) in 35% sulphuric acid (48 ml) at 0° C. The reaction mixture was stirred at 0° C. for 30 minutes and a solution of copper(II)nitrate trihydrate (467 g, 1.93mol) in water (780 ml). followed by copper(II)oxide (2.65 g, 18 mmol) were added. The solution was extracted with ethyl acetate, the organic layer was washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with petroleum ether/ethyl acetate (8/2) to give 2-fluoro-5-methoxycarbonyloxy-4-methylphenol (2.13 g, 53%) as a yellow solid.

reactant | sodium nitrite | 23 mmol, 1.63 g | N(=O)[O-].[Na+]
reactant | 2-fluoro-5-methoxycarbonyloxy-4-methylaniline | 20 mmol, 3.93 g | FC1=C(N)C=C(C(=C1)C)OC(=O)OC | C9H10FNO3
solvent | water | 19ml | O | H2O
solvent | sulphuric acid | 48 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 780 ml | O | H2O
catalyst | copper(II)nitrate trihydrate | 1.93mol, 467 g | O.O.O.[N+](=O)([O-])[O-].[Cu+2].[N+](=O)([O-])[O-]
catalyst | copper(II)oxide | 18 mmol, 2.65 g | [Cu]=O
product | 2-fluoro-5-methoxycarbonyloxy-4-methylphenol | 2.13 g, 53% | FC1=C(C=C(C(=C1)C)OC(=O)OC)O | C9H9FO4
